US07514473B2
(b) 3-[3-((R)-1-Oxiranylmethoxy)-phenyl]-propionic acid ethyl ester
To an acetone solution (0.15 M, 170 mL) of 3-(3-Hydroxy-phenyl)-propionic acid ethyl ester (5.0 g, 25.77 mmol) was added K2CO3 (10.69 g, 77.32 mmol), and the mixture was heated to reflux for 30 min. After cooling this mixture to RT, (2R)-(−)-glycidyl 3-nitrobenzenesulfonate (6.68 g, 25.77 mmol) was added, and the resulting mixture was heated to reflux overnight. After cooling to room temperature, the solids were removed by filtration and washed well with ethyl acetate. The filtrate was concentrated and partitioned between ethyl acetate and 1N HCl. The organic portion was washed successively with 5% NaHCO3 and brine, dried (MgSO4), filtered and concentrated to a solid. Purification by FCC (30% ethyl acetate/hexanes) gave the product as a white solid in 93% yield (6.0 g).

reactant | 3-(3-Hydroxy-phenyl)-propionic acid ethyl ester | 25.77 mmol, 5.0 g | C(C)OC(CCC1=CC(=CC=C1)O)=O | C11H14O3
reactant | K2CO3 | 77.32 mmol, 10.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2R)-(−)-glycidyl 3-nitrobenzenesulfonate | 25.77 mmol, 6.68 g | C1[C@@H](O1)COS(=O)(=O)C2=CC=CC(=C2)[N+](=O)[O-] | C9H9NO6S
solvent | acetone | 0.15 M, 170 mL | CC(=O)C | C3H6O
product | 3-[3-((R)-1-Oxiranylmethoxy)-phenyl]-propionic acid ethyl ester | 93% yield | C(C)OC(CCC1=CC(=CC=C1)OC[C@@H]1OC1)=O | C14H18O4
